US04056540
b. 5-Chloro-2'-fluoro-2-hydroxybenzhydrol
Under anhydrous conditions, a stirred solution of 25.0 g (99.5 mmoles) of 5-chloro-2'-fluoro-2-hydroxybenzophenone in 250 ml of anhydrous THF was heated to reflux. The heat source was removed and 115 ml (115 mmoles) of a solution (1M in BH3) of diborane in THF was added rapidly from a dropping funnel; foaming and some refluxing occurred. After addition, external heating was resumed and refluxing was continued for 5 min. A few minutes after heating was resumed, the yellow color of the ketone was discharged. The colorless solution was cooled to room temperature and worked up as described in Example 1a. An oil was obtained in quantitative yield which was used without further purification in the next step.

reactant | 5-chloro-2'-fluoro-2-hydroxybenzophenone | 99.5 mmoles, 25.0 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)O | C13H8ClFO2
reactant | diborane | B#B | B2
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 5-Chloro-2'-fluoro-2-hydroxybenzhydrol | quantitative yield | ClC=1C=CC(=C(C(C2=C(C=CC=C2)F)O)C1)O | C13H10ClFO2
